US07651687B2
Benzyl-{[trans-4-(8-amino-1-iodoimidazo[1,5-a]pyrazin-3-yl)cyclohexyl]methyl}carbamate
A solution of benzyl {[trans-4-(8-chloro-1-iodoimidazo[1,5-a]pyrazin-3-yl)cyclohexyl]methyl}carbamate (1.70 g, 0.00324 mol) in IPA (30 mL) was cooled to −78° C., treated with a stream of ammonia gas over 3 min. and then heated at 110° C. in a Parr vessel overnight. The reaction solution was concentrated in vacuo and residue washed with water to afford 1.37 g of desired product. 1H NMR (400 MHz, CDCl3): δ=1.08-1.17 (m, 2H), 1.88 (m, 1H), 1.71-1.81 (m, 2H), 1.91-1.94 (m, 2.00-2.04 (m, 2H), 2.90 (m, 1H), 3.13 (t, J=6.4 Hz, 2H), 4.86 (br, 1H), 5.11 (s, 2H), 5.76 (br, 2H), 7.00 (d, J=5.2 Hz, 1H), 7.22 (d, J=5.2 Hz, 1H), 7.31-7.37 (m, 5H). MS (ES+): m/z 5.7.36 [MH+].

reactant | benzyl {[trans-4-(8-chloro-1-iodoimidazo[1,5-a]pyrazin-3-yl)cyclohexyl]methyl}carbamate | 0.00324 mol, 1.70 g | ClC=1C=2N(C=CN1)C(=NC2I)[C@@H]2CC[C@H](CC2)CNC(OCC2=CC=CC=C2)=O | C21H22ClIN4O2
reactant | ammonia | N | H3N
solvent | IPA | 30 mL | CC(C)O | C3H8O
product | Benzyl-{[trans-4-(8-amino-1-iodoimidazo[1,5-a]pyrazin-3-yl)cyclohexyl]methyl}carbamate | 1.37 g | C(C1=CC=CC=C1)OC(NC[C@@H]1CC[C@H](CC1)C1=NC(=C2N1C=CN=C2N)I)=O | C21H24IN5O2
